US04429125
O-ethyl O-(2-ethyl-5-pyrimidinyl) S-(2-methylpropyl) phosphorodithioate
A mixture of 5 grams of 2-ethyl-5-pyrimidinol, 5 grams of finely powdered potassium carbonate, 40 ml of acetonitrile and 9.3 grams of O-ethyl S-(2-methylpropyl) phosphorochloridodithioate was stirred without external heating overnight. The solids were then removed by filtration, the filtrate concentrated under vacuum, the residue taken up in diethyl ether, the ether solution washed twice with 2% aqueous sodium hydroxide, once with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in a rotary evaporator leaving a pale amber colored oil having a refractive index of 25° of 1.5296. Elemental analysis showed the product contained 44.81% carbon; 6.58% hydrogen and 8.59% nitrogen. Theoretical analysis is 44.98% carbon; 6.61% hydrogen and 8.74% nitrogen.

reactant | 2-ethyl-5-pyrimidinol | 5 grams | C(C)C1=NC=C(C=N1)O | C6H8N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | O-ethyl S-(2-methylpropyl) phosphorochloridodithioate | 9.3 grams | P(OCC)(Cl)(=S)SCC(C)C | C6H14ClOPS2
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | O-ethyl O-(2-ethyl-5-pyrimidinyl) S-(2-methylpropyl) phosphorodithioate | P(OCC)(OC=1C=NC(=NC1)CC)(=S)SCC(C)C | C12H21N2O2PS2
